* Isolated Buck (Flybuck) Converter - Generated by OpenMagnetics
* Vin=48V, Vout_pri=12V, f=200kHz, D=23.75 pct
* Lmag=1000uH, 1 secondaries

* DC Input
Vin vin_dc 0 48

* High-side Switch
Vpwm pwm_ctrl 0 PULSE(0 5 0 10n 10n 1.1875e-06 5e-06)
.model SW1 SW VT=2.5 VH=0.5 RON=0.01 ROFF=1e6
S1 vin_dc sw_node pwm_ctrl 0 SW1

* Low-side Switch (Synchronous Rectifier)
Vpwm_inv pwm_inv 0 PULSE(5 0 0 10n 10n 1.1875e-06 5e-06)
.model SW2 SW VT=2.5 VH=0.5 RON=0.01 ROFF=1e6
S2 sw_node 0 pwm_inv 0 SW2

* Coupled Inductor (Primary = Buck Inductor)
* Primary current sense
Vpri_sense sw_node pri_in 0
Lpri pri_in vpri_out 1.000000e-03

* Across-winding differential voltage probe (passive sign)
Bvpri_diff vpri_diff 0 V=V(pri_in)-V(vpri_out)

Lsec0 0 sec0_in 2.500000e-04
Kpri_sec0 Lpri Lsec0 1

* Diode model
.model DIDEAL D(IS=1e-14 RS=0.01 N=1.0)

* Primary Output Stage (Buck - non-isolated)
Cpri vpri_out 0 100u IC=12.000000
Rload_pri vpri_out 0 2.400000

* Secondary 0 output stage (isolated)
Rsec0 sec0_in sec0_node 0.01
Dsec0 sec0_node sec0_rect DIDEAL
Vsec_sense0 sec0_rect vout0 0
Cout0 vout0 0 100u IC=5.000000
Rload0 vout0 0 5.000000

* Transient Analysis
.tran 2.500000e-08 5.000000e-05 2.500000e-05 UIC

* Output signals
.save v(sw_node) v(pri_in) v(vpri_out) v(vpri_diff) i(Vpri_sense) v(vin_dc) i(Vin) v(sec0_in) v(sec0_rect) i(Vsec_sense0) v(vout0)

.options RELTOL=0.001 ABSTOL=1e-9 VNTOL=1e-6 ITL1=1000 ITL4=1000
.ic v(vpri_out)=12.000000
.ic v(vout0)=5.000000

.end
